US07572820B2
B. 1-[(3-Phenyl-5-isoxazolyl)methyl]-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized in a manner similar to Example 23 using 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-(chloromethyl)-3-phenylisoxazole: MS (ES) m/z 410 (M+1).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | 5-(chloromethyl)-3-phenylisoxazole | ClCC1=CC(=NO1)C1=CC=CC=C1 | C10H8ClNO
product | 1-[(3-Phenyl-5-isoxazolyl)methyl]-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(=CC=CC=C1)C1=NOC(=C1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC | C23H18F3N3O
